US07314511B2
3,6-Bis(phenylthio) phthalonitrile
Thiophenol (11.75 g, 107 mmol), potassium carbonate (14.74 g, 107 mmol) and ditosylated dicyanohydroquinone (25.00 g, 53.0 mmol) in DMF (80 mL) were reacted as described above. Water (100 mL) was added and the mixture stirred for 1 hour then filtered. The filter cake was purified by flash column chromatography (gradient elution 10%-30% ethyl acetate:isohexane) to give the title compound as a yellow solid (5.53 g, 16.1 mmol, 52%). [Found: C, 69.6%; H, 3.5%; N, 8.2%; S, 18.3%; C20H12N2S2 requires C, 69.8%; H, 3.5%; N, 8.1%; S, 18.6%]; MS (EI+) 344 (M+, 100%).

reactant | Thiophenol | 107 mmol, 11.75 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 107 mmol, 14.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 100 mL | O | H2O
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 3,6-Bis(phenylthio) phthalonitrile | 16.1 mmol, 5.53 g, 52% | C1(=CC=CC=C1)SC1=C(C(C#N)=C(C=C1)SC1=CC=CC=C1)C#N | C20H12N2S2
